data/mechanisms/records/IMS4-EQ4.17a.json
{"mechanism_id": "IMS4-EQ4.17a", "species": [{"species_id": "methyl_3_hexanol_molecular_ion", "mapped_smiles": "[CH3:4][CH2:3][CH2:2][C:1]([CH3:7])([CH2:5][CH3:6])[OH+:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ethyl_methyl_hydroxycarbenium_mz73", "mapped_smiles": "[CH3:6][CH2:5][C:1]([CH3:7])=[OH+:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "propyl_radical", "mapped_smiles": "[CH2:2][CH2:3][CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_3_hexanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["ethyl_methyl_hydroxycarbenium_mz73", "propyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_loss_propyl", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_17a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_loss_propyl", "support_type": "textbook_proposed", "locator": {"page": 61, "equation": "4.17", "figure": "Figure 4.2 (mass spectrum of 3-methyl-3-hexanol)", "panel": "loss of C3H7*, product printed first: [C2H5C(CH3)=OH]+ m/z 73, 100%", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s) for this pathway; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). ARC COUNT, verified by zooming the scan: the single structure carries FOUR arcs in total - one SOLID fishhook that starts at the odd electron drawn as '+.' on the hydroxyl oxygen and ends with a half-arrowhead (barb) on the C-O bond, plus THREE DASHED fishhooks that all end with a barb on that same C-O bond, one starting from each of the three alpha C-C bonds (C-CH3 from above, C-C3H7 and C-C2H5 from below). McLafferty superimposes the three competing alpha cleavages on one drawing; this record takes the two arcs belonging to the C-C3H7 channel (the shared solid oxygen hook = move 1, and the dashed C(1)-C(2) hook = move 2). The third electron of that homolysis - the one that leaves on the propyl radical - is NOT drawn; the book simply writes the alkyl radical loss implicitly by printing only the ion. LOCALIZATION (convention B): the page prints the ionized alcohol as the neutral skeleton with '+.' as one superscript beside OH, so the charge and the odd electron are both placed on oxygen, and the precursor SMILES writes that literally as [OH+:8] with two bonds and one unpaired electron. The reaction is the alpha cleavage that dominates the spectrum: relative rates fall in the order loss of the LARGEST radical first, C3H7* (m/z 73, 100%) > C2H5* (m/z 87, 50%) > CH3* (m/z 101, 10%), which is the point of the equation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_73", "species_id": "ethyl_methyl_hydroxycarbenium_mz73", "step_id": "step_alpha_cleavage_loss_propyl", "observed_mz": 73.0648, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
